US06191150B1
(2R,3R)-2-(2-Methyl-1-propyl)-3-hydroxybutanoic acid (6.6 g, 41.2 mmol) and 5.3 g (45.3 mmol) of 2-tetrahydropyranyloxyamine are stirred in 60 mL of dichloromethane as 8.7 g (45.3 mmol) of EDC is added. After 4 h at 25° C. the reaction mixture is partitioned between 1 N aqueous hydrochloric acid and dichloromethane and the organics are washed with saturated aqueous sodium bicarbonate. The organics are dried over magnesium sulfate and concentrated under reduced pressure to afford 5.9 g (55%) of (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoic acid 2-tetrahydropyranyloxyamide as an oil.

reactant | (2R,3R)-2-(2-Methyl-1-propyl)-3-hydroxybutanoic acid | 41.2 mmol, 6.6 g | CC(C[C@@H](C(=O)O)[C@@H](C)O)C | C8H16O3
reactant | 2-tetrahydropyranyloxyamine | 45.3 mmol, 5.3 g | O1C(CCCC1)ON | C5H11NO2
reactant | EDC | 45.3 mmol, 8.7 g
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (2R,3R)-2-(2-methyl-1-propyl)-3-hydroxyhexanoic acid 2-tetrahydropyranyloxyamide | 5.9 g, 55% | O1C(CCCC1)ONC([C@@H]([C@@H](CCC)O)CC(C)C)=O | C15H29NO4
